US07253194B2
4-(7-Phenyl-heptanoylamino)-5-[1-(3-phenyl-propyl)-1H-imidazol-4-yl]-pentanoic acid ethyl ester (31)
A solution of 5-[1-(3-phenyl-allyl)-1H-imidazol-4-yl]-4-(7-phenyl-heptanoylamino)-pent-2-enoic acid ethyl ester (110 mg, 0.21 mmol) and Pd/C (50 mg) in ethanol (100 mL) was subject to hydrogenation (42 psi) for 2 hr. The solution was filtered and the solvent removed. The residue, ESMS 518 (M+H+) was hydrolysed directly without characterisation.

reactant | 5-[1-(3-phenyl-allyl)-1H-imidazol-4-yl]-4-(7-phenyl-heptanoylamino)-pent-2-enoic acid ethyl ester | 0.21 mmol, 110 mg | C(C)OC(C=CC(CC=1N=CN(C1)CC=CC1=CC=CC=C1)NC(CCCCCCC1=CC=CC=C1)=O)=O | C32H39N3O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 4-(7-Phenyl-heptanoylamino)-5-[1-(3-phenyl-propyl)-1H-imidazol-4-yl]-pentanoic acid ethyl ester | C(C)OC(CCC(CC=1N=CN(C1)CCCC1=CC=CC=C1)NC(CCCCCCC1=CC=CC=C1)=O)=O | C32H43N3O3
